US04478833
8-Benzylthio-4-morpholino-2-(1-oxido-thiomorpholino)pyrimido[5,4-d]pyrimidine
This compound was prepared analogous to Example 1 from 8-benzylthio-2-chloro-4-morpholino-pyrimido[5,4-d]pyrimidine melting point: 159°-161° C.) and thiomorpholine-1-oxide.

reactant | 8-benzylthio-2-chloro-4-morpholino-pyrimido[5,4-d]pyrimidine | C(C1=CC=CC=C1)SC1=NC=NC2=C1N=C(N=C2N2CCOCC2)Cl | C17H16ClN5OS
reactant | thiomorpholine-1-oxide | N1CCS(CC1)=O | C4H9NOS
product | 8-Benzylthio-4-morpholino-2-(1-oxido-thiomorpholino)pyrimido[5,4-d]pyrimidine | C(C1=CC=CC=C1)SC1=NC=NC2=C1N=C(N=C2N2CCOCC2)N2CCS(CC2)=O | C21H24N6O2S2
